US08071565B2
Step a: (1S,4R)-4-(2,6-Dichloro-purin-9-yl)-cyclopent-2 enol
2,6-Dichloropurine (10 g, 52.90 mmol), (1S,4R)-cis-4-acetoxy-2-cyclopenten-1-ol (10 g, 70.40 mmol), tris(dibenzylideneacetone)dipalladium(0) (3.20 g, 3.50 mmol) and polymer supported triphenylphosphine (3 mmol/g, 11.60 g, 35.00 mmol) are placed in an oven-dried flask under an atmosphere of argon. Dry deoxygenated THF (80 mL) is added and the reaction mixture is stirred gently for 5 minutes. Triethylamine (20 mL) is added and the reaction mixture is stirred at 50° C. The reaction is shown to be complete by LCMS after 1 hour. The reaction mixture is allowed to cool, filtered and the solvent is removed in vacuo. The title compound is obtained after purification by flash column chromatography (silica, dichloromethane/methanol 25:1).

reactant | 2,6-Dichloropurine | 52.90 mmol, 10 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | (1S,4R)-cis-4-acetoxy-2-cyclopenten-1-ol | 70.40 mmol, 10 g | CC(=O)O[C@@H]1C[C@@H](C=C1)O | C7H10O3
reactant | triphenylphosphine | 35.00 mmol, 11.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.50 mmol, 3.20 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1S,4R)-4-(2,6-Dichloro-purin-9-yl)-cyclopent-2 enol | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)O)Cl | C10H8Cl2N4O
